US08202865B2
Step 2: methyl 4-[amino(hydroxyimino)methyl]-3-methoxybenzoate
To a suspension of methyl 4-cyano-3-methoxybenzoate, obtained in step 1 (135 mg; 0.71 mmol; 1 eq.) in EtOH (1.35 mL) was added hydroxylamine (50% in water) (0.21 mL; 3.53 mmol; 5 eq.). The reaction mixture was stirred at 60° C. for 3 h. Solvent were removed to dryness, to afford the title compound as a white powder (191 mg; quantitative). 1H NMR (DMSO-d6, 300 MHz) δ 9.58 (br s, 1H), 7.56-7.51 (m, 3H), 5.71 (br s, 2H), 3.87-3.85 (m, 6H). HPLC (Method A), Rt 1.17 min (purity: 95.0%).

reactant | methyl 4-cyano-3-methoxybenzoate | C(#N)C1=C(C=C(C(=O)OC)C=C1)OC | C10H9NO3
reactant | hydroxylamine | 3.53 mmol, 0.21 mL, 5 eq. | NO | H3NO
solvent | EtOH | 1.35 mL | CCO | C2H6O
product | methyl 4-[amino(hydroxyimino)methyl]-3-methoxybenzoate | 191 mg | NC(C1=C(C=C(C(=O)OC)C=C1)OC)=NO | C10H12N2O4
